US08350028B2
N6-(3-Methoxy-propyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,6-diamine
The title compound, MS: m/e=326.1 (M+H+), was prepared in accordance with the general method of example 1 from 2,6-dichloroquinoline, 5-methyl-2-furanmethanamine and 3-methoxypropylamine.

reactant | 2,6-dichloroquinoline | ClC1=NC2=CC=C(C=C2C=C1)Cl | C9H5Cl2N
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | 3-methoxypropylamine | COCCCN | C4H11NO
product | N6-(3-Methoxy-propyl)-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,6-diamine | COCCCNC=1C=C2C=CC(=NC2=CC1)NCC=1OC(=CC1)C | C19H23N3O2
